US05977219
5-Benzenesulfonyl-2-(2-hydroxy-3-α-cumyl-5-tert-octylphenyl)-2H-benzotriazole
A 1000 mL flask is charged with 75.2 g of 5-phenylthio-2-(2-hydroxy-3-α-cumyl-5-tert-octylphenyl)-2H-benzotriazole, prepared in Example 4, 102 g of xylene, 0.9 g of sodium tungstate dihydrate and 18.4 g of formic acid. The mixture is heated to 50° C. To this stirred mixture is slowly added 36.3 g of 50% hydrogen peroxide so that the temperature does not exceed 85° C. Additional xylene and water are then added. The organic layer is separated, washed with aqueous sodium sulfite, then twice with water and concentrated. The crude product residue is recrystallized from methanol to yield 75.2 g of the title compound as a light yellow solid melting at 170-171° C.

reactant | 5-phenylthio-2-(2-hydroxy-3-α-cumyl-5-tert-octylphenyl)-2H-benzotriazole | 75.2 g | C1(=CC=CC=C1)SC1=CC=2C(=NN(N2)C2=C(C(=CC(=C2)C(C)(C)CC(C)(C)C)C(C)(C)C2=CC=CC=C2)O)C=C1 | C35H39N3OS
reactant | xylene | 102 g | C=1(C(=CC=CC1)C)C | C8H10
reactant | formic acid | 18.4 g | C(=O)O | CH2O2
reactant | hydrogen peroxide | 36.3 g | OO | H2O2
reactant | water | O | H2O
catalyst | sodium tungstate dihydrate | 0.9 g | O.O.[O-][W](=O)(=O)[O-].[Na+].[Na+]
product | 5-Benzenesulfonyl-2-(2-hydroxy-3-α-cumyl-5-tert-octylphenyl)-2H-benzotriazole | 75.2 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC=2C(=NN(N2)C2=C(C(=CC(=C2)C(C)(C)CC(C)(C)C)C(C)(C)C2=CC=CC=C2)O)C=C1 | C35H39N3O3S
